US06174881B1
3.3 ml of a 1M lithium aluminium, hydride solution in tetrahydrofuran was cooled to −75° C. and a solution of 1.26 g of methyl 8-chloro -6-(2-fluorophenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-carboxylate in 15 ml of tetrahydrofuran was added dropwise. After 1 h. in a dry ice/acetone bath the mixture was brought to 0° C. and left for a further h. For the working up, 0.1 ml of water was added dropwise at 0° C. while stirring intensively, 0.1 ml of 15% sodium hydroxide solution was added after 5 min., finally 0.3 ml of water was added after a further 10 min. After 12 h. the mixture was filtered, the residue was suspended in 100 ml of methanol, stirred well for 1 h. and filtered. The combined filtrates were concentrated in a vacuum and purified by chromatography on 80 g of silica gel with dichloromethane containing 5% methanol. There were obtained 234 mg (20%) of 8-chloro-6-(2-fluoro-phenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol. For the preparation of the methanesulphonic acid salt, 230 mg of this product were dissolved in 10 ml of dichloromethane and 6.0 ml of a 0.1M methanesulphonic acid solution in diethyl ether were slowly added dropwise. After removal of the solvent in a vacuum the residue was taken up in 10 ml of water, filtered and lyophilized. There were isolated 183 mg of hygroscopic 8-chloro-6-(2-fluorophenyl)-1-methyl-4H-imidazo-[1,2-a][1,4]benzodiazepine-2-methanol methanesulphonate (1:2) of m.p. 116° C.

reactant | lithium aluminium | 1M | [Al].[Li]
reactant | hydride | [H-]
reactant | methyl 8-chloro -6-(2-fluorophenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-carboxylate | 1.26 g | ClC=1C=CC2=C(C(=NCC=3N2C(=C(N3)C(=O)OC)C)C3=C(C=CC=C3)F)C1 | C20H15ClFN3O2
reactant | sodium hydroxide | 0.1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 0.3 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
product | 8-chloro-6-(2-fluoro-phenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 234 mg, 20% | ClC=1C=CC2=C(C(=NCC=3N2C(=C(N3)CO)C)C3=C(C=CC=C3)F)C1 | C19H15ClFN3O
